US04010273
3-Amino-4-phenoxy-5-sulphamylbenzoic acid methyl ester
35 g (~0.1 mol) of 3-nitro-4-phenoxy-5-sulphamylbenzoic acid methyl ester are suspended in 150 ml of methanol and are hydrogenated with Raney nickel (5-10%) in an autoclave at 40° -50° and 100 atmospheres gauge. The precipitated amino compound is dissolved by the addition of acetone on a steambath and the Raney nickel is removed by filtration.

reactant | 3-nitro-4-phenoxy-5-sulphamylbenzoic acid methyl ester | ~0.1 mol, 35 g | COC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)[N+](=O)[O-])=O | C14H12N2O7S
reactant | acetone | CC(=O)C | C3H6O
solvent | methanol | 150 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 3-Amino-4-phenoxy-5-sulphamylbenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)N)=O | C14H14N2O5S
